US08557849B2
A solution of N-[6-(1-hydroxyethyl)pyridin-2-yl]-2,2-dimethylpropanamide (1 g, 4.49 mmol, 1 eq.) in 20 ml of DCM was cooled to 0° C. and PPh3 (1.65 g, 6.29 mmol, 1.4 eq.) was added followed by N-Bromosuccinimide (0.96 g, 5.39 mmol, 1.2 eq.). The reaction was stirred at 0° C. for 1 h and at r.t. for 1 h. The solvent was removed and residue purified by chromatography on silica gel to give N-[6-(1-bromoethyl)pyridin-2-yl]-2,2-dimethylpropanamide (1.025 g, 79% yield) as a clear oil.

reactant | N-[6-(1-hydroxyethyl)pyridin-2-yl]-2,2-dimethylpropanamide | 4.49 mmol, 1 g, 1 eq. | OC(C)C1=CC=CC(=N1)NC(C(C)(C)C)=O | C12H18N2O2
reactant | PPh3 | 6.29 mmol, 1.65 g, 1.4 eq. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | N-Bromosuccinimide | 5.39 mmol, 0.96 g, 1.2 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[6-(1-bromoethyl)pyridin-2-yl]-2,2-dimethylpropanamide | 1.025 g, 79% yield | BrC(C)C1=CC=CC(=N1)NC(C(C)(C)C)=O | C12H17BrN2O
